US07635684B2
4-{[4-(3-Chloropropoxy)-2-methylphenyl]methyl}-1-(2-hydroxyethyl)-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole
To a solution of 1-(2-hydroxyethyl)-4-[(4-hydroxy-2-methylphenyl)methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.69 g), 1-bromo-3-chloropropane (0.22 mL) and tetra(n-butyl)ammonium bromide (0.14 g) in tetrahydrofuran (8 mL) was added 5 mol/L aqueous sodium hydroxide solution (0.43 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with diethylether. The extract was washed with water and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1) to give the title compound (0.56 g).

reactant | 1-(2-hydroxyethyl)-4-[(4-hydroxy-2-methylphenyl)methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.69 g | OCCN1N=C(C(=C1C(C)C)CC1=C(C=C(C=C1)O)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C42H64N2O12
reactant | 1-bromo-3-chloropropane | 0.22 mL | BrCCCCl | C3H6BrCl
reactant | sodium hydroxide | 5 mol/L, 0.43 mL | [OH-].[Na+]
reactant | hydrochloric acid | 0.5 mol/L | Cl | ClH
catalyst | tetra(n-butyl)ammonium bromide | 0.14 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 4-{[4-(3-Chloropropoxy)-2-methylphenyl]methyl}-1-(2-hydroxyethyl)-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.56 g | ClCCCOC1=CC(=C(C=C1)CC=1C(=NN(C1C(C)C)CCO)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O)C | C45H69ClN2O12
